US09428483B2
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 400 mg) and 1-chloroethyl isopropyl carbonate (204 mg) were treated in the same manner as in Example A-1 (3) to give (1S,2S,3S,5R,6S)-3′-allyl 6-(1-((isopropyloxycarbonyl)oxy)ethyl) 3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-3′,6-dicarboxylate (A-15-1, 95 mg) as a colorless oil.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 400 mg | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | 1-chloroethyl isopropyl carbonate | 204 mg | C(OC(C)Cl)(OC(C)C)=O | C6H11ClO3
product | (1S,2S,3S,5R,6S)-3′-allyl 6-(1-((isopropyloxycarbonyl)oxy)ethyl) 3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-3′,6-dicarboxylate | 95 mg | F[C@H]1C[C@H]2[C@@H](C2[C@@]12N(COC2=O)C(=O)OCC=C)C(=O)O[C@H](C)OC(=O)OC(C)C | C19H24FNO9
